US05120759
A solution of 32.3 g (0.165 mol) of [R]-(-)-2-(p-fluorophenyl)-3-methylbutyric acid in 250 ml of abs. methylene chloride was treated with 27.3 ml of oxalyl chloride. After stirring at room temperature for 4 hours and evaporation of the solvent under reduced pressure, [R]-(-)-2-(p-fluorophenyl)-3-methylbutyryl chloride was obtained as an oil, b.p. 100°/65 Pa; [α]D20 =-53.2° (c=1, chloroform).

reactant | [R]-(-)-2-(p-fluorophenyl)-3-methylbutyric acid | 0.165 mol, 32.3 g | FC1=CC=C(C=C1)[C@H](C(=O)O)C(C)C | C11H13FO2
reactant | oxalyl chloride | 27.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [R]-(-)-2-(p-fluorophenyl)-3-methylbutyryl chloride | FC1=CC=C(C=C1)[C@H](C(=O)Cl)C(C)C | C11H12ClFO
